* source PROIECT1_BOERU
R_RSC1         N189299 N177943  10 TC=0,0 
C_C3         0 N177457  10u  TC=0,0 
R_R1         N1781611 N178191  2.2k TC=0,0 
R_R4         N180228 N177877  100 TC=0,0 
R_RLoad         0 N189917  100 TC=0,0 
V_V1         0 N177877 11Vdc
R_R7         0 N178521  680 TC=0,0 
R_R5         N178389 N177877  100 TC=0,0 
X_R9         N178355 N178515 N178521 POT PARAMS: SET=0 VALUE=2k
R_R8         N178355 N177457  330 TC=0,0 
R_R6         0 N177571  100 TC=0,0 
C_C2         0 N178191  4.7u  TC=0,0 
C_C1         0 N177877  10u  TC=0,0 
R_R3         0 N178077  1k TC=0,0 
R_Rb         N177911 N177877  22k TC=0,0 
R_R2         N178077 N1781611  2.2k TC=0,0 
D_D1         N178191 0 BZX84-C5V1 
R_RSC2         N189303 N189299  10 TC=0,0 
R_RSC3         N189316 N189303  10 TC=0,0 
R_RSC4         N177457 N189316  4.7 TC=0,0 
R_RLoad1         N189917 N177457  100 TC=0,0 
Q_Q14         N177877 N177555 N177943 QTIP32C 
Q_Q17         N177555 N177619 N178389 QBC846B 
Q_Q18         N177619 N177619 N180228 QBC846B 
Q_Q19         N177619 N178077 N177571 QBC856B 
Q_Q20         N177555 N178515 N177571 QBC856B 
Q_Q21         N177555 N177943 N177457 QBC856B 
Q_Q22         N177877 N177911 N178191 QBC856B 
